Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide
 
Attending: ___
 
Chief Complaint:
Abnormal Labs, HypoTN 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx renal transplant in ___ on prednisone & sirolimus, CAD 
s/p NSTEMI ___ (no stents), hx C. Diff, hx MRSA osteomyelitis, 
HTN, HLD, UTIs, p/w abnormal labs (___) and hypotension.  
 Of note, she had a recent admission to CHA (discharged ___ 
with  
 ___ (resolved), C. diff (negative assay x2), UTI treated with 
Cipro, chronic abdominal pain with negative w/u (see OSH DC 
Summary in Green Chart), odynophagia d/t candideal esophagitis 
started on fluconazole, acute metabolic encephalopathy 
(resolved), AFib with RVR started on Toprol, and 
thrombocytopenia s/p 1u PLT with resolution.  
 Patient reports that since her discharge she's had ongoing 
diarrhea, weakness, and thirst. She works as an ___ in 
addition to being an ___ and is normally very high energy 
particularly after hospital discharges, but this was not the 
case this time. She has chronic generalized aches that she 
attributes to long-term prednisone; she had a pre-planned 
appointment with a covering primary care physician to discuss 
methadone today when she was found to be hypotensive by the 
physician, who checked the pressure manually three times. She 
had no preceding symptoms such as fevers, chills, n/v, 
cp/pressure, sob, urinary frequency or dysuria. She has diffuse 
abdominal pains that have troubled her for a long time now; they 
do not localize to her transplanted kidney in the RLQ. Due to a 
bad L hip s/p replacement, she does not walk but uses a 
motorized wheelchair, there have been no presyncope/syncopal 
events.  
 Per report, after transfer to OSH (where pressures were ___, 
confirmed by EMS), she responded to IVF bolus. OSH labs per our 
ED included:  
 Chem 7: 140/4.0/108/22/55/3.1 (discharge Cr 1.3 on ___  
 lactate 1.3  
 albumin 3.1  
 lft's normal  
 cbc: 8.9/11.7/37.2/137  
 CXR (uploaded)  
 Because of the ___ with hx renal transplant, she was brought to 
the ___ ED where initial vitals were: 99.1 66 ___ 99% RA 
 
 - No labs obtained here  
 - Renal transplant U/S was essentially normal (see below)  
 - The patient was given oxycodone 5mg and 1L NS.  
 Vitals prior to transfer were: 83 122/70 18 99% RA.  
 
 Upon arrival to the floor, patient is pleasant, conversant, and 
contributes to the history as taken above and reported below.  
 
Past Medical History:
1. s/p cadaveric Renal transplant: ___, ESRD ___ chronic  
reflux nephropathy, on prednisone and sirolimus; baseline Cr  
1.0-1.2  
2. Osteopenia ___ chronic steroid use.  
3. Osteonecrosis of feet c/b osteomyelitis  
4. CAD: NSTEMI ___, s/p cardiac cath without intervention  
5. Hyperlipidemia  
6. GERD  
7. s/p craniotomy for ICH (?intracranial aneurysm)  
8. s/p foot surgeries  
9. s/p cholecystecomy, s/p appendectomy  
10. Hx of c.diff 2 and ___ yrs ago  
11. Hx of MRSA osteo ___  
12. Cataract surgery  
___. HTN  
14. H/o DVT  
15. Anemia  
16. Panic disorder  
17. Polyneuropathy in renal disease  
18. Diastolic dysfunction  
19. Hypothyroidism  
20. Chronic low back pain  
21. Hearing loss of both ears  
22. Recent small intestinal adenoma with endoscopic resection 
c/b bowel performation requiring ex-lap in ___  
23. Recurrent colitis due to Clostridium difficile  
24. UTI (lower urinary tract infection)  
 
 
Social History:
___
Family History:
Son with DM. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 97.6 ___ 18 94%RA  
 General: Alert, oriented, no acute distress  
 HEENT: NCAT, EOMI, PERRLA, anicteric sclera, clear OP, MM  
 Neck: Supple, JVP 6cm  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Obese, soft, tender but non-focal w/o rebound or 
peritoneal signs, +BS  
 Ext: WWP, 1+ edema bilaterally  
 Neuro: Face symmetric, normal movement of the upper limbs and 
RLE, patient unable to move LLE passively (chronic)  

DISCHARGE PHYSICAL EXAM
Vitals: Tm98.8 BP130s-160s/80s RR18 O2 97RA 
I/O 24H ___
General: Alert, oriented, very forceful about going home.
HEENT: MMM; no oral lesions.  
CV: RRR, normal S1, S2. 
Lungs: CTAx2, no wheezes, rales, rhonchi  
Abdomen: healed surgical scars; obese; soft; nondistended; 
nontender.
Ext: WWP, nonedmeatous; multiple bruises; chronic stasis.
Neuro: AOx3; grossly intact.
 
Pertinent Results:
ADMISSION LABS
___ 05:26AM BLOOD WBC-4.7 RBC-3.41* Hgb-9.3* Hct-30.8* 
MCV-90# MCH-27.3 MCHC-30.2*# RDW-17.2* RDWSD-56.6* Plt ___
___ 05:26AM BLOOD Neuts-87* Bands-0 Lymphs-6* Monos-4* 
Eos-0 Baso-0 ___ Metas-1* Myelos-2* AbsNeut-4.09 
AbsLymp-0.28* AbsMono-0.19* AbsEos-0.00* AbsBaso-0.00*
___ 05:26AM BLOOD ___ PTT-22.8* ___
___ 05:26AM BLOOD Glucose-111* UreaN-42* Creat-2.7* Na-141 
K-4.0 Cl-112* HCO3-18* AnGap-15
___ 05:26AM BLOOD Calcium-7.6* Phos-5.0*# Mg-1.9
___ 05:26AM BLOOD tacroFK-6.3
___ 01:37PM URINE Color-Straw Appear-Clear Sp ___
___ 01:37PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 01:37PM URINE RBC-1 WBC-21* Bacteri-FEW Yeast-NONE 
Epi-<1 TransE-<1 RenalEp-<1
___ 01:37PM URINE Eos-NEGATIVE  
___ 01:37PM URINE Hours-RANDOM UreaN-329 Creat-35 Na-43 
K-11 Cl-22 TotProt-9 Phos-37.6 Prot/Cr-0.3*
___ 01:37PM URINE Osmolal-277
___ 05:26AM BLOOD TSH-0.15*
___ 05:26AM BLOOD %HbA1c-6.2* eAG-131*

INTERMITTENT PERTINENT LABS
___ 04:44AM BLOOD WBC-8.6 RBC-3.66* Hgb-10.0* Hct-33.8* 
MCV-92 MCH-27.3 MCHC-29.6* RDW-17.9* RDWSD-59.6* Plt ___
___ 04:44AM BLOOD Glucose-150* UreaN-21* Creat-1.5* Na-144 
K-4.0 Cl-114* HCO3-21* AnGap-13
___ 04:44AM BLOOD Calcium-8.3* Phos-2.5* Mg-1.6
___ 04:44AM BLOOD tacroFK-8.1

___ 1:37 pm URINE      Source: ___. 

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

DISCHARGE LABS
___ 04:54AM BLOOD WBC-8.3 RBC-3.70* Hgb-10.1* Hct-33.8* 
MCV-91 MCH-27.3 MCHC-29.9* RDW-17.7* RDWSD-58.2* Plt ___
___ 04:54AM BLOOD Glucose-127* UreaN-16 Creat-1.3* Na-143 
K-3.4 Cl-110* HCO3-24 AnGap-12
___ 04:54AM BLOOD Calcium-8.5 Phos-2.2* Mg-2.0

DIAGNOSTICS AND IMAGING
___ Renal Transplant U/S: Normal waveform and resistive 
indices of the main and intra renal arteries. Patent transplant 
renal vein, with a slightly more pulsatile waveform compared to 
prior exams   

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman s/p renal transplant in ___ 
on prednisone and tacrolimus, chronic pain, CAD s/p NSTEMI ___ 
(no stent), hx of recurrent C diff, h/o Klesbsiella 
pyelonephritis ___, and recently treated UTI, who was 
admitted with hypotension, diarrhea, and ___.

Her admission creatinine was 3.1 prior to transfer to ___. 
Evaluation suggested that etiology was prerenal, which was 
consistent with the patient's story of having frequent diarrhea 
and little PO intake. Her creatinine improved to 1.5 with IV 
fluid repletion. Full workup showed the patient had no 
infection, and was C. diff negative. She had no diarrhea whilst 
inpatient and her blood pressures were also stable with SBPs in 
the 100s-110s.

She was kept on tacrolimus 0.5 mg po bid and prednisone for 
immunosuppression. Her discharge paperwork from ___ led her to  
be on prednisone 20 mg daily, however, review with nephrology 
showed she should be on prednisone 5 mg daily. She was kept on 
acyclovir.

She was also continued on treatment for esophageal candidiasis 
diagnosed at ___. 

For coronary artery disease she was continued on aspirin, 
metoprolol and statin.

For hypothyroidism she was continued on home levothyroxine. TSH 
was low upon evaluation (checked as part of frequent diarrhea 
evaluation) and should be addressed as an outpatient.

Patient also has chronic pain and was treated with oxycodone 5 
mg q6h prn pain. Home clonazepam prn was continued for anxiety. 
Calcitriol continued for bone health. Omperazole continued for 
GERD.

TRANSITIONAL ISSUES:
#Trend creatinine weekly
#Discharge prednisone dose 5 mg daily
#Discharge tacrolimus dose 0.5 mg bid
#TSH 0.15, f/u synthroid dosing
#F/u GI pathology of duodenal polyp pending on discharge from 
___
#Last day of fluconazole ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Fluconazole 200 mg PO Q24H 
2. Ciprofloxacin HCl 250 mg PO Q12H 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. Acetaminophen 650 mg PO Q6H:PRN pain 
5. Tacrolimus 0.5 mg PO Q12H 
6. Acyclovir 200 mg PO DAILY 
7. diclofenac sodium 1 % topical QID 
8. Levothyroxine Sodium 125 mcg PO DAILY 
9. Lidocaine 5% Patch 1 PTCH TD QAM 
10. Omeprazole 40 mg PO DAILY 
11. Rosuvastatin Calcium 40 mg PO QPM 
12. ClonazePAM 0.5 mg PO BID:PRN anxiety 
13. PredniSONE 5 mg PO DAILY 
14. Calcitriol 0.5 mcg PO DAILY 
15. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
RX *acyclovir 400 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Calcitriol 0.5 mcg PO DAILY 
4. ClonazePAM 0.5 mg PO BID:PRN anxiety 
5. Fluconazole 200 mg PO Q24H 
last day ___ 
RX *fluconazole 200 mg 1 tablet(s) by mouth daily Disp #*9 
Tablet Refills:*0
6. Levothyroxine Sodium 125 mcg PO DAILY 
7. Lidocaine 5% Patch 1 PTCH TD QAM 
8. Omeprazole 40 mg PO DAILY 
9. PredniSONE 5 mg PO DAILY 
10. Rosuvastatin Calcium 40 mg PO QPM 
11. Tacrolimus 0.5 mg PO Q12H 
12. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q6h prn pain Disp #*15 
Tablet Refills:*0
13. diclofenac sodium 1 % TOPICAL QID 
14. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Prerenal ___
Diarrhea 

SECONDARY DIAGNOSES
s/p Kidney Transplantation
Esophageal Candidiasis
Coronary artery disease
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted 
because your kidney function had decreased and you were having 
low blood pressures. Workup showed that you did not have an 
infection, and it's likely that your symptoms and decreased 
kidney function were a result of not eating and drinking enough 
in the setting of having a few episodes of diarrhea. You were 
given fluids, your diarrhea resolved on its own, and your kidney 
function improved.

It is very important that you continue to eat and drink well, as 
this well help protect your kidney function. If you find that 
you are having diarrhea again and you are not able to drink a 
lot of fluids, please seek medical attention so that you can 
receive IV fluids and your kidney function can be monitored. 

We wish you the best of luck in your health!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___